US09314464B2
Intermediate. 1,3-Dibromo-2,5-dichlorobenzene
A stirred mixture of 2,4-dibromo-3,6-dichloroaniline (5.0 g), tert-Butyl nitrite (3.3 g) and EtOH (50 mL) was heated in a sealed tube at 50° C. for 2 hrs. The mixture was concentrated and the residue was purified by silica gel flash chromatography (hexanes eluant) to afford the title compound. MS m/z: 303 (M+H)+.

reactant | 2,4-dibromo-3,6-dichloroaniline | 5.0 g | BrC1=C(N)C(=CC(=C1Cl)Br)Cl | C6H3Br2Cl2N
reactant | tert-Butyl nitrite | 3.3 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1,3-Dibromo-2,5-dichlorobenzene | BrC1=C(C(=CC(=C1)Cl)Br)Cl | C6H2Br2Cl2
